US05707997
Preparation of 5-n-butyl-3-chloro-2-methyl-7-(3,4,5-trimethoxybenzoylamino) pyrazolo[1,5-a]pyrimidine
5-n-Butyl-2-methyl-7-(3,4,5-trimethoxybenzoyl-amino) pyrazolo[1,5-a]pyrimidine (the compound of Example 53; 0.78 g) was dissolved in 10 ml of chloroform. After addition of 0.28 g of NCS, the mixture was refluxed with heating for 1 hour and allowed to cool. After addition of some water, the reaction mixture was extracted with chloroform. The organic layer was collected, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:2) and recrystallized from ethanol-n-hexane to provide 0.61 g of the object compound as colorless crystals. Table 3 shows the structure and melting point of the compound obtained.

reactant | 5-n-Butyl-2-methyl-7-(3,4,5-trimethoxybenzoyl-amino) pyrazolo[1,5-a]pyrimidine | C(CCC)C1=NC=2N(C(=C1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)N=C(C2)C | C21H26N4O4
reactant | NCS | 0.28 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | water | O | H2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-n-butyl-3-chloro-2-methyl-7-(3,4,5-trimethoxybenzoylamino) pyrazolo[1,5-a]pyrimidine | 0.61 g | C(CCC)C1=NC=2N(C(=C1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)N=C(C2Cl)C | C21H25ClN4O4
